US04544770
In a manner analogous to Example 2, a solution of 3.42 g of (Z)-[5-(4-methoxy-2,3,6-trimethylphenyl)-3-methyl-2-penten-4-ynyl]triphenylphosphonium bromide in 240 ml of methanol was hydrogenated in the presence of 1.8 g of water-moist Raney-nickel. 188 ml of hydrogen were taken up within 28 hours. The crude product (3.4 g), which contained 89.4% of (2Z,4Z)-[5-(4-methoxy-2,3,6-trimethylphenyl)-3-methyl-2,4-pentadienyl]triphenylphosphonium bromide (yield 89%), obtained after filtration and evaporation was dissolved in 20 ml of methylene chloride and crystallized by the dropwise addition of 50 ml of ethyl acetate while stirring. The suspension was left to stand at 0° C. overnight, filtered and the product, washed with a small amount of ethyl acetate/methylene chloride (volume ratio 5:1), was dried at 40°C./0.01 mbar. There were obtained 1.8 g of 99.6% (2Z,4Z)-[5-(4-methoxy-2,3,6-trimethylphenyl)-3-methyl-2,4-pentadienyl]triphenylphosphonium bromide as white crystals of melting point 202°-204° C.; yield 52.5%.

reactant | (Z)-[5-(4-methoxy-2,3,6-trimethylphenyl)-3-methyl-2-penten-4-ynyl]triphenylphosphonium bromide | 3.42 g | [Br-].COC1=C(C(=C(C(=C1)C)C#C\C(=C/C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C)C)C
reactant | water | 1.8 g | O | H2O
reactant | hydrogen | 188 ml | [H][H] | H2
solvent | methanol | 240 ml | CO | CH4O
product | (2Z,4Z)-[5-(4-methoxy-2,3,6-trimethylphenyl)-3-methyl-2,4-pentadienyl]triphenylphosphonium bromide | yield 89% | [Br-].COC1=C(C(=C(C(=C1)C)\C=C/C(=C\C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C)C)C | InChI=1S/C34H36OP.BrH/c1-26(21-22-33-27(2)25-34(35-5)29(4)28(33)3)23-24-36(30-15-9-6-10-16-30,31-17-11-7-12-18-31)32-19-13-8-14-20-32;/h6-23,25H,24H2,1-5H3;1H/q+1;/p-1/b22-21-,26-23-;
